US08865690B2
Crude 17α-hydroxy-21-allylcarbonyloxy-pregna-4,9(11)-diene-3,20-dione was dissolved in 15 g of trifluoroethyl octadecanoate and 150 ml of tetrahydrofuran, the resulting solution was added with 4 g of Bacillus subtilis protease and the suspension was stirred for 2 days at 45° C., adding further protease at regular time intervals to 3 g total. The protease was filtered off, the filtrate was removed under vacuum and the residue was chromatographed on a silica gel column with a dichloromethane/methanol 99:1 mixture. The less polar fraction was evaporated off to obtain a residue of 17α-octadecanoyloxy-21-allylcarbonyloxy-pregna-4,9(11)-diene-3,20-dione.

reactant | 17α-hydroxy-21-allylcarbonyloxy-pregna-4,9(11)-diene-3,20-dione | O[C@]1(C(COC(=O)CC=C)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C25H32O5
solvent | trifluoroethyl octadecanoate | 15 g | C(CCCCCCCCCCCCCCCCC)(=O)OCC(F)(F)F | C20H37F3O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 17α-octadecanoyloxy-21-allylcarbonyloxy-pregna-4,9(11)-diene-3,20-dione | C(CCCCCCCCCCCCCCCCC)(=O)O[C@]1(C(COC(=O)CC=C)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C43H66O6
